### PR TITLE
integrableM lemmas

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

We have been using these lemmas with @AyumuSaito to prove properties of a probabilistic programming language.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/lebesgue_integral.v [hunk 1]
```diff
@@ -3194,13 +3194,38 @@ case: fi => mf; apply: le_lt_trans; apply: ge0_le_integral => //.
...
+    exact: (measurable_int gi).
+  - move=> x Dx; rewrite lee_wpmul2r//= lee_fin Mh//=.
+    by rewrite (lt_le_trans _ (ler_norm _))// ltrDl.
+rewrite ge0_integralZl ?lte_mul_pinfty//; first by case/integrableP : gi.
+by apply: measurableT_comp => //; exact: measurable_int gi.
+Qed.
+
+Lemma integrableMl f (h : T -> R) :
+  measurable_fun D h -> [bounded h x | x in D] ->
+  mu_int f -> mu_int (f \* (EFin \o h)).
```
Comment (proux01) [inline theories/lebesgue_integral.v:3219]: Maybe
```suggestion
Lemma integrableMl f (h : T -> R) :
  mu_int f -> measurable_fun D h -> [bounded h x | x in D] ->
  mu_int (f \* (EFin \o h)).
```
would be less surprising

**Review by proux01 — APPROVED** [review]
Simplified proofs a bit
